US07737279B2
N-[[6-[1,6-dihydro-1-methyl-4-(methylamino)imidazo[4,5-d]pyrrolo[2,3-b]pyridin-7-yl]-2-pyridinyl]methyl]-cyclopropanecarboxamide
To a mixture of A215 (0.020 g, 0.065 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.019 g, 0.098 mmol), 1-hydroxybenzotriazole (0.013 g, 0.098 mmol), and diisopropylethylamine (0.034 mL, 0.195 mmol) in anhydrous dimethylformamide (2 mL) was added cyclopropylcarboxylic acid (8.00 μL, 0.098 mmol). The reaction mixture was stirred at room temperature overnight. Concentration under pressure followed by purification by flash silica gel chromatography using a 5% mixture of methanol in dichloromethane afforded 0.012 g (50%) of A218 as a yellow solid. The compound had an HPLC retention time=1.99 min. (Column: Chromolith SpeedROD 4.6×50 mm—4 min.; Solvent A=10% MeOH, 90% H2O, and 0.1% TFA; Solvent B=90% MeOH, 10% H2O, and 0.1% TFA) and a LC/MS M+1=376.40.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.098 mmol, 0.019 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.098 mmol, 0.013 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.195 mmol, 0.034 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylcarboxylic acid | 0.098 mmol, 8.00 μL | C1(CC1)C(=O)O | C4H6O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | N-[[6-[1,6-dihydro-1-methyl-4-(methylamino)imidazo[4,5-d]pyrrolo[2,3-b]pyridin-7-yl]-2-pyridinyl]methyl]-cyclopropanecarboxamide | CN1C=NC=2C1=C1C(=NC2NC)NC(=C1)C1=CC=CC(=N1)CNC(=O)C1CC1 | C20H21N7O
